### PR TITLE
arch-split VSpace_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
This one doesn't have any interesting shenanighans with commits, since the vast majority of VSpace_R was arch-specific. Squeezed out what I could into the generic file, and then cleaned up and removed warnings in the `ArchVSpace_R`s.

The first commit sets up the hierarchy, so probably still easier to review commit-by-commit.

Stats: 46 files changed, 582 insertions(+), 1031 deletions(-)
Total: 449 lines removed

### CODE REVIEW

File: proof/refine/VSpace_R.thy [hunk 1]
```diff
@@ -0,0 +1,213 @@
...
+  and ksInterruptState[wp]: "\<lambda>s. P (ksInterruptState s)"
+  and cur'[wp]: "\<lambda>s. P (ksCurThread s)"
+  and cteCaps_of[wp]: "\<lambda>s. P (cteCaps_of s)"
+  and dmo_global_refs'[wp]: "\<lambda>s. P (global_refs' s)"
+  and ksCurDomain[wp]: "\<lambda>s. P (ksCurDomain s)"
+  and ksDomSchedule[wp]: "\<lambda>s. P (ksDomSchedule s)"
+  and ksDomScheduleIdx[wp]: "\<lambda>s. P (ksDomScheduleIdx s)"
+  and gsUntypedZeroRanges[wp]: "\<lambda>s. P (gsUntypedZeroRanges s)"
+  and ctes[wp]: "\<lambda>s. P (ctes_of s)"
+  and ksPSpace[wp]: "\<lambda>s. P (ksPSpace s)"
```
Comment (lsf37) [inline proof/refine/VSpace_R.thy:209]: So nice to have this set up consistently for all architectures now.

**Review by lsf37 — APPROVED** [review]
Cool. Even here a bunch of cleanup and deduplication. If there's one theory that would not split then it's this one.

It's a bit funky to see FIXME AARCH64 end up in the generic theory, but I see how it makes sense and I agree that it should stay. It'll make it easier to clean up later.

File: proof/refine/VSpace_R.thy [hunk 2]
```diff
@@ -7,8 +8,206 @@
 
 (* VSpace refinement - generic interface *)
 
+(* FIXME arch-split: arguably most of this can be moved elsewhere and this file deleted, making
+   VSpace_R an arch-only theory *)
```
Comment (Xaphiosis) [inline proof/refine/VSpace_R.thy:12]: was hoping to get some opinions on this one; @lsf37 any thoughts to add?

Comment (lsf37) [reply proof/refine/VSpace_R.thy:12]: Eventually that could happen, yes, but I wouldn't see it as a priority right now. There's also a chance that we'll discover other things during the arch split run that should maybe go here, so I'd leave this FIXME for the end.

File: proof/refine/RISCV64/ArchStateRelationLemmas.thy [hunk 3]
```diff
@@ -161,6 +161,24 @@ lemma valid_arch_obj'_valid[wp]:
...
 
+lemma ghost_relation_wrapper_ksPSpace_upd[simp, StateRelation_R_assms]:
+  "ghost_relation_wrapper s (s'\<lparr>ksPSpace := ps'\<rparr>) = ghost_relation_wrapper s s'"
+  by (clarsimp simp: ghost_relation_typ_at set_cap_a_type_inv)
+
+lemma ghost_relation_wrapper_abs_upd_simps[simp, StateRelation_R_assms]:
+  "\<And>f s s'. ghost_relation_wrapper (cdt_list_update f s) s' = ghost_relation_wrapper s s'"
+  "\<And>f s s'. ghost_relation_wrapper (cdt_update f s) s' = ghost_relation_wrapper s s'"
+  "\<And>f s s'. ghost_relation_wrapper (is_original_cap_update f s) s' = ghost_relation_wrapper s s'"
+  by simp_all
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchStateRelationLemmas.thy]: I'm guessing you accidentally added these back in when rebasing, they can be removed now.

File: proof/refine/VSpace_R.thy [hunk 4]
```diff
@@ -7,8 +8,206 @@
...
+  apply (simp add: doMachineOp_def split_def)
+  apply wp
+  by (clarsimp)
+
+(* FIXME AARCH64: move (all arches) *)
+lemma corres_split_strengthen_ftE:
+  "\<lbrakk> corres (ftr \<oplus> r') P P' f j;
+      \<And>rv rv'. r' rv rv' \<Longrightarrow> corres (ftr' \<oplus> r) (R rv) (R' rv') (g rv) (k rv');
+      \<lbrace>Q\<rbrace> f \<lbrace>R\<rbrace>,-; \<lbrace>Q'\<rbrace> j \<lbrace>R'\<rbrace>,- \<rbrakk>
+    \<Longrightarrow> corres (dc \<oplus> r) (P and Q) (P' and Q') (f >>=E (\<lambda>rv. g rv)) (j >>=E (\<lambda>rv'. k rv'))"
```
Comment (corlewis) [inline proof/refine/VSpace_R.thy]: I know this isn't new but while we're cleaning things up, indentation here?

File: proof/refine/VSpace_R.thy [hunk 5]
```diff
@@ -7,8 +8,206 @@
...
+  by (clarsimp simp: msgLengthBits_def msgExtraCapBits_def msgMaxExtraCaps_def shiftL_nat
+                     msgLabelBits_msg_label_bits msgMaxLength_def mask_def)
+
+lemma set_mi_invs'[wp]: "\<lbrace>invs' and tcb_at' t\<rbrace> setMessageInfo t a \<lbrace>\<lambda>x. invs'\<rbrace>"
+  by (simp add: setMessageInfo_def) wp
+
+lemma setMessageInfo_corres:
+ "mi' = message_info_map mi \<Longrightarrow>
+  corres dc (tcb_at t and pspace_aligned and pspace_distinct) \<top>
+            (set_message_info t mi) (setMessageInfo t mi')"
```
Comment (corlewis) [inline proof/refine/VSpace_R.thy]: Indentation

File: proof/refine/VSpace_R.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/VSpace_R.thy:209]: Yes, definitely!

File: proof/refine/AARCH64/ArchVSpace_R.thy [hunk 6]
```diff
@@ -1769,24 +1662,12 @@ proof -
...
 qed
 
-lemma dMo_no_0_obj'[wp]:
-  "doMachineOp f \<lbrace>no_0_obj'\<rbrace>"
-  apply (simp add: doMachineOp_def split_def)
-  apply wp
-  by (simp add: no_0_obj'_def)
-
-lemma dMo_riscvKSASIDTable_inv[wp]:
+lemma dMo_armvKSASIDTable_inv[wp]:
```
Comment (corlewis) [inline proof/refine/AARCH64/ArchVSpace_R.thy:1665]: Good spotting!

File: proof/refine/ARM_HYP/ArchVSpace_R.thy [hunk 7]
```diff
@@ -4,30 +4,17 @@
  * SPDX-License-Identifier: GPL-2.0-only
  *)
 
-(*
-   ARM VSpace refinement
-*)
+(* ARM VSpace refinement *)
```
Comment (corlewis) [inline proof/refine/ARM_HYP/ArchVSpace_R.thy]: Should this be `ARM_HYP`?

I guess the other option would be for this comment to say something like `VSpace refinement - architecture-specific` for all arches. That would be consistent with the CSpace files.

File: proof/refine/RISCV64/ArchStateRelationLemmas.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchStateRelationLemmas.thy]: Argh, how did I miss that, I got all the other arches. Thanks for catching that.

File: proof/refine/VSpace_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/VSpace_R.thy]: done

File: proof/refine/VSpace_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/VSpace_R.thy]: done

File: proof/refine/ARM_HYP/ArchVSpace_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/ArchVSpace_R.thy]: Oh dear. Yes, I went with the other option, good idea.
